US08227601B2
To a suspension of 2-chloro-6-(4-cyclopropyl-2,6-dimethylphenoxy)-9H-purine (28 mg, 0.088 mmol) and 4-aminobenzonitrile (42 mg, 0.35 mmol) in 2,2,2-trifluoroethanol (3 mL) in a sealed tube was added trifluoroacetic acid (0.056 mL, 0.70 mmol). The resulting solution was heated at 90° C. for 3 days. The reaction was cooled to room temperature and concentrated to dryness. Silica gel chromatography (CH2Cl2:Acetone=80:20) yielded 7 mg (20%) of 4-(6-(4-cyclopropyl-2,6-dimethylphenoxy)-9H-purin-2-ylamino)benzonitrile as a light yellow solid.

reactant | 2-chloro-6-(4-cyclopropyl-2,6-dimethylphenoxy)-9H-purine | 0.088 mmol, 28 mg | ClC1=NC(=C2N=CNC2=N1)OC1=C(C=C(C=C1C)C1CC1)C | C16H15ClN4O
reactant | 4-aminobenzonitrile | 0.35 mmol, 42 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | trifluoroacetic acid | 0.70 mmol, 0.056 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | 2,2,2-trifluoroethanol | 3 mL | FC(CO)(F)F | C2H3F3O
product | 4-(6-(4-cyclopropyl-2,6-dimethylphenoxy)-9H-purin-2-ylamino)benzonitrile | 7 mg, 20% | C1(CC1)C1=CC(=C(OC2=C3N=CNC3=NC(=N2)NC2=CC=C(C#N)C=C2)C(=C1)C)C | C23H20N6O
